* pair_symmetry
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice ss
.include /repo/v2/analog/adc/adc_blocks.spice
.temp 85
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear klu
.param ADC_PAIR_WIDTH_SKEW=0
VG g 0 .81
VD1 d1 0 .8
VD2 d2 0 .8
VS s 0 .05
X1 d1 g s 0 sky130_fd_pr__nfet_01v8 W={8*(1+ADC_PAIR_WIDTH_SKEW)} L=.5 nf=1 mult=1
X2 d2 g s 0 sky130_fd_pr__nfet_01v8 W=8 L=.5 nf=1 mult=1
.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
op
wrdata /repo/v2/analog/adc/results/pair_fixed_ss.tsv i(vd1) i(vd2)
quit
.endc
.end
